US09376418B2
n-Butyllithium (2.2 ml, 3.52 mmol, 1.6 M) was added dropwise to a solution of diisopropylamine (500 μl, 3.51 mmol) in THF (5 ml) at −78° C. and the resulting solution was stirred at −78° C. for 30 minutes. A solution of 5-bromo-2-methylpyridine (500 mg, 2.91 mmol) in THF (1 mL) was added dropwise to LDA solution and the mixture was stirred for 1 hour. A solution of di-tert-butyl dicarbonate (742 μl, 3.20 mmol) in THF (1 ml) was added to the reaction mixture and warmed to room temperature over a period of 2 hours. The mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate, washed with brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford tert-butyl 2-(5-bromopyridin-2-yl)acetate (151.8 mg, 0.558 mmol). MS ESI calc'd. for C11H14BrNO2 [M+H]+ 272 and 274. found 272 and 274.

reactant | n-Butyllithium | 3.52 mmol, 1.6 M, 2.2 ml | C(CCC)[Li]
reactant | diisopropylamine | 3.51 mmol, 500 μl | C(C)(C)NC(C)C | C6H15N
reactant | 5-bromo-2-methylpyridine | 2.91 mmol, 500 mg | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | di-tert-butyl dicarbonate | 3.20 mmol, 742 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-(5-bromopyridin-2-yl)acetate | 0.558 mmol, 151.8 mg | BrC=1C=CC(=NC1)CC(=O)OC(C)(C)C | C11H14BrNO2
